US07906517B2
Benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-carbamate (9.70 g) and ethyl 4-bromobutyrate (3.53 g) are dissolved in N,N-dimethylformamide (50 mL) and thereto is added potassium carbonate (3.41 g) and the mixture is stirred at 50° C. for 1 hour. Thereto are added ethyl acetate and a saturated brine, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=4:1→1:1) to give ethyl 4-{2-[benzyloxycarbonyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (8.29 g). MS (m/z): 586 [M+H]+

reactant | Benzyl (3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-carbamate | 9.70 g | FC(C=1C=C(CN(C(OCC2=CC=CC=C2)=O)C2=NC=C(C=N2)O)C=C(C1)C(F)(F)F)(F)F | C21H15F6N3O3
reactant | ethyl 4-bromobutyrate | 3.53 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 3.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | ethyl 4-{2-[benzyloxycarbonyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 8.29 g | C(C1=CC=CC=C1)OC(=O)N(C1=NC=C(C=N1)OCCCC(=O)OCC)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C27H25F6N3O5
